US04084001
A mixture of 6-aminohexan-1-ol and 1-methylamino-1-methylthio-2-nitroethylene in ethanol is heated on a steam-bath to give 1-(6-hydroxyhexyl)-1-methylamino-2-nitroethylene. Substitution of 1-(6-hydroxyhexyl)-1-methylamino-2-nitroethylene for N-cyano-N'-(5-hydroxypentyl)-N"-methylguanidine in the procedure of Example 5 (ii and iii) leads to the production of S-[6-((1-methylamino-2-nitrovinyl)amino)hexyl]isothiourea.

reactant | 6-aminohexan-1-ol | NCCCCCCO | C6H15NO
reactant | 1-methylamino-1-methylthio-2-nitroethylene | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
solvent | ethanol | C(C)O | C2H6O
product | 1-(6-hydroxyhexyl)-1-methylamino-2-nitroethylene | OCCCCCCC(=C[N+](=O)[O-])NC | C9H18N2O3
